US06110963
1-Bromo-6-[(2-butyl-benzofuran-3-yl)-hydroxy-methyl]-naphthalen-2-ol
Sodium borohydride (0.33 g, 8.98 mmol) was added into a mixture of 1-bromo-6-(2-butyl-benzofuran-3-carbonyl)-naphthalen-2-ol (1.9 g, 4.49 mmol) and methyl alcohol (10 mL). The reaction mixture was stirred for 1 hour poured into water, acidified with HCl (2 N) and extracted with ethyl ether. The organic extracts were dried over MgSO4. Evaporation and purification by flash chromatography on silica gel (hexanes/EtOAc 2:1) gave an off-white solid(1.65 g): MS m/e 424 (M+);

reactant | Sodium borohydride | 8.98 mmol, 0.33 g | [BH4-].[Na+]
reactant | 1-bromo-6-(2-butyl-benzofuran-3-carbonyl)-naphthalen-2-ol | 4.49 mmol, 1.9 g | BrC1=C(C=CC2=CC(=CC=C12)C(=O)C1=C(OC2=C1C=CC=C2)CCCC)O | C23H19BrO3
reactant | methyl alcohol | 10 mL | CO | CH4O
reactant | HCl | 2 N | Cl | ClH
solvent | water | O | H2O
product | 1-Bromo-6-[(2-butyl-benzofuran-3-yl)-hydroxy-methyl]-naphthalen-2-ol | 1.65 g | BrC1=C(C=CC2=CC(=CC=C12)C(O)C1=C(OC2=C1C=CC=C2)CCCC)O | C23H21BrO3
